US04968704
N-[4-([1-(4-Pyridyl)piperidin-4-yl]oxy)phenyl]methanesulphonamide
Treatment of 4-(4-aminophenoxy)-1-(4-pyridyl)piperidine (see Preparation 3) (0.323 g) with methanesulphonyl chloride (0.151 g) in pyridine (10 ml) according to the method of Example 1 gave the title compound, (0.260 g), m.p. 191°-192° (from ethanol/water).

reactant | 4-(4-aminophenoxy)-1-(4-pyridyl)piperidine | 0.323 g | NC1=CC=C(OC2CCN(CC2)C2=CC=NC=C2)C=C1 | C16H19N3O
reactant | methanesulphonyl chloride | 0.151 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethanol water | C(C)O.O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-([1-(4-Pyridyl)piperidin-4-yl]oxy)phenyl]methanesulphonamide | 0.260 g | N1=CC=C(C=C1)N1CCC(CC1)OC1=CC=C(C=C1)NS(=O)(=O)C | C17H21N3O3S
